### PR TITLE
Add Erdős Problem 603 (chromatic Property B for intersection ≠ 2)

### LINKED ISSUE #822: Erdős Problem 603
### What is the conjecture
    
https://www.erdosproblems.com/603

  Let $(A_i)$ be a family of countable sets such that $\lvert A_i\cap A_j\rvert \neq 2$ for all $i\neq j$. Is there some $C$ such that $\cup A_i$ can always be coloured with at most $C$ colours so that no $A_i$ is monochromatic?
  

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by henrykmichalewski**
fixes #822 

## Problem
Erdős Problem 603: https://www.erdosproblems.com/603 (sister problem of 602)

> Does every family of sets, any two of which intersect in at most 2 points, have chromatic Property B?

## Contents
- HasChromaticPropertyB definition generalizing Problem 602
- Main open theorem `erdos_603`
- Komjáth's ≠1 intersection result as context
- 4 proved variants (finite family, singleton family, pairwise disjoint, large sets)
- Disproof of a misformalization (showing the naive encoding is too weak)
- Sanity checks ensuring definitions are non-trivial

Assisted by Claude (Anthropic).

### CODE REVIEW

**Comment by henrykmichalewski** [comment]
Closes #822

File: FormalConjectures/ErdosProblems/603.lean [hunk 1]
```diff
@@ -0,0 +1,513 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/603.lean]: nit: Could you update the copyright year to 2026 for this new file?

File: FormalConjectures/ErdosProblems/603.lean [hunk 2]
```diff
@@ -0,0 +1,513 @@
...
+**Note on generalisation:** We work over an arbitrary ground type `α : Type*` so that the
+statement covers families of countably infinite subsets of uncountable ambient spaces.
+Since every countably infinite set bijects with `ℕ`, this is equivalent to the standard
+formulation over `ℕ`.
+
+**Formalization note on "smallest cardinal":** The problem asks for the *minimum* `C`. We
+formalize this as: `C` is the smallest cardinal with `HasChromaticPropertyB (C.out) I A`.
+The `answer(sorry)` placeholder represents the (currently unknown) cardinal answer. -/
+@[category research open, AMS 3 5]
+theorem erdos_603 : answer(sorry) ↔
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/603.lean]: Does the source ask for the smallest cardinal `C` here? This theorem fixes `C` to `ℕ`, so it only records that countably many colours suffice. Could you phrase the main theorem so the `answer(sorry)` has cardinal type and asserts minimality, or make this a variant if the intended contribution is the ℵ₀ upper bound?

File: FormalConjectures/ErdosProblems/603.lean [hunk 3]
```diff
@@ -0,0 +1,513 @@
...
+  have hne := hMono (a_fn i) (ha_mem i) (b_fn i) (hb_mem i)
+  rw [hfa, hfb] at hne
+  exact absurd hne (by decide)
+
+/--
+**Empty index set.**
+
+If the index set `I` is empty, then `HasChromaticPropertyB` holds vacuously for any colouring
+type (in particular for `ℕ`-colourings). -/
+@[category undergraduate, AMS 3]
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/603.lean]: nit: Looks like this file still uses `@[category undergraduate]` for a few auxiliary/supporting lemmas. This now no longer works on `main` - the new version of this is `textbook`.

**Comment by henrykmichalewski** [comment]
@Paul-Lez — applied the mechanical nits in [`71584ff`](https://github.com/henrykmichalewski/formal-conjectures/commit/71584ff), on top of an upstream/main merge: `@[category undergraduate]` → `@[category textbook]` (and copyright 2026 where applicable). The substantive content comments on this PR (open characterization vs. existence/universal phrasing, etc.) are tracked separately and will be addressed in follow-up commits per PR.

**Comment by henrykmichalewski** [comment]
Thanks for the review @PaulLez. Pushed 4027764 on `add-problem-603`: the headline now uses `IsLeast` over `Cardinal` (so the answer carries cardinal type and asserts minimality), and the previous ℕ-valued formulation has been demoted to a named variant `erdos_603.variants.nat_colours`.

File: FormalConjectures/ErdosProblems/603.lean
Comment (mo271) [inline FormalConjectures/ErdosProblems/603.lean:1]: The problem statement is copied verbatim three times. Per repository conventions, the problem statement and its variants should only appear once. The module docstring should contain the reference link but not repeat the full statement that already lives in the Lean theorem's docstring. Recommend keeping it only in the erdos_603 theorem docstring and removing the two copies from the module docstring.

File: FormalConjectures/ErdosProblems/603.lean [hunk 4]
```diff
@@ -0,0 +1,534 @@
...
+  the two formulations are equivalent.
+- **Countably infinite** sets are represented as `Set.Countable ∧ Set.Infinite`.
+- A **$C$-colouring** of `α` using colours from a type `C` is a function `f : α → C`.
+- A set `A` is **monochromatic** under `f` if `f` is constant on `A`.
+- **$C$-chromatic Property B** asserts: there exists a colouring `f : α → C` (with `C` many
+  colours) such that no `A_i` is monochromatic.
+- The open problem asks for the **smallest cardinal** `C` satisfying this for all such families.
+  We formalize this as: the smallest `C` such that `C`-chromatic Property B holds for every
+  family satisfying the intersection condition.
+-/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/603.lean]: The module docstring is very long and contains:

The verbatim problem statement (duplicated twice)
"Relationship to Problem 602" section (lines 40–46)
"Komjáth's known result" section (lines 48–52)
"Formalization choices" section (lines 54–66)
Most of this commentary also appears in theorem docstrings throughout the file. The module docstring should be trimmed to essentially just the title, source reference, and at most a brief sentence of context. The long prose about variants, Komjáth's result, and formalization choices is redundant with the theorem-level docstrings.

File: FormalConjectures/ErdosProblems/603.lean [hunk 5]
```diff
@@ -0,0 +1,534 @@
...
+- If `|A₀ ∩ A₁| = 1` (a single common element `x`): pick any `y ∈ A₀ \ A₁`. Colour `y` with
+  1, everything else with 0. Then `A₀` has both colours (at `x` and `y`). For `A₁`: since `y ∉ A₁`,
+  all elements of `A₁` get colour 0. But `A₁` is infinite so it has two elements, both colour 0
+  — monochromatic. Instead, pick `z ∈ A₁ \ {x}` and colour `z` with 1 too. Now `A₁` has colours
+  0 (at `x`) and 1 (at `z`). For `A₀`: it has colour 0 (at `x`) and colour 1 (at `y`).
+- If `|A₀ ∩ A₁| ≥ 3`: the intersection has three or more elements. Pick distinct `x, y ∈ A₀ ∩ A₁`.
+  Colour `y` with 1, all else with 0. Both `A₀` and `A₁` contain `x` (colour 0) and `y` (colour 1).
+
+(The case `|A₀ ∩ A₁| = 2` is excluded by hypothesis.) -/
+@[category research solved, AMS 3 5]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/603.lean]:
```suggestion
@[category textbook, AMS 3 5]
```
Seems like this is pretty basic, hence suggesting to use `textbook` as category

File: FormalConjectures/ErdosProblems/603.lean [hunk 6]
```diff
@@ -0,0 +1,534 @@
...
+Problem 603 is the "sister" of [Problem 602](https://www.erdosproblems.com/602):
+- **Problem 602** asks the same question but with the forbidden intersection size being 1
+  (i.e., $|A_i \cap A_j| \neq 1$ for all $i \neq j$) and whether 2 colours always suffice.
+- **Problem 603** asks for the **minimum** number of colours $C$ when the forbidden
+  intersection size is 2 (i.e., $|A_i \cap A_j| \neq 2$ for all $i \neq j$).
+
+## Komjáth's known result
+
+Komjáth proved that for families satisfying $|A_i \cap A_j| \neq 1$ for all $i \neq j$,
+$\aleph_0$ colours always suffice (and in fact 2 suffice — related to Problem 602).
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/603.lean]: "and in fact 2 suffice"
If I understand correctly The source only says ℵ₀ colours suffice for the `≠ 1` case. Problem 602 asks whether 2 colours suffice under a stricter condition (finite intersections `≠ 1`), and Problem 602 is still open.

Fix in the erdos_603 docstring (the only place this should remain after removing them elsewhere):

Perhaps replace the note about Komjáth's result with:
```
Komjáth proved that for the condition
$|A_i \cap A_j| \neq 1$, one can always colour with at most $\aleph_0$ colours.
The current problem — the minimum $C$ for the condition $|A_i \cap A_j| \neq 2$ — is open.
```

File: FormalConjectures/ErdosProblems/603.lean [hunk 7]
```diff
@@ -0,0 +1,534 @@
...
+if all elements of `A` receive the same colour. -/
+def IsMonochromatic {α C : Type*} (f : α → C) (A : Set α) : Prop :=
+  ∀ x ∈ A, ∀ y ∈ A, f x = f y
+
+/-- A family `(A_i)_{i ∈ I}` of subsets of `α` has **`C`-chromatic Property B** if there exists
+a colouring `f : α → C` (using at most `#C` colours) such that no `A_i` is monochromatic.
+
+When `C = Fin 2`, this reduces to the classical Property B (2-colouring). -/
+def HasChromaticPropertyB {α : Type*} (C : Type*) (I : Type*) (A : I → Set α) : Prop :=
+  ∃ f : α → C, ∀ i, ¬IsMonochromatic f (A i)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/603.lean]: Problem 602 also defines `IsMonochromatic` and `HasChromaticPropertyB`, one of the two files should import from the other, or both should use a shared definition in `FormalConjecturesForMathlib/`.

File: FormalConjectures/ErdosProblems/603.lean [hunk 8]
```diff
@@ -0,0 +1,534 @@
...
+
+/-- A family `(A_i)_{i ∈ I}` of subsets of `α` has **Property B** (the classical 2-colour
+version) if there exists a 2-colouring `f : α → Fin 2` such that no `A_i` is monochromatic.
+This specialises `HasChromaticPropertyB` to `C = Fin 2`. -/
+def HasPropertyB {α : Type*} (I : Type*) (A : I → Set α) : Prop :=
+  HasChromaticPropertyB (Fin 2) I A
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/603.lean]: is `HasPropertyB` used anywhere? if not let's perhaps remove the dead code unless there are concrete plans to use it in the future

File: FormalConjectures/ErdosProblems/603.lean [hunk 9]
```diff
@@ -0,0 +1,534 @@
...
+    (∀ i j, i ≠ j → Set.ncard (A i ∩ A j) ≠ 2) →
+    HasChromaticPropertyB ℕ I A
+
+/-- Formal disproof of `chromatic_without_infinite_claim`.
+
+**Counterexample:** Take `α = ℕ`, `I = Fin 2`, `A 0 = {0}` (singleton) and `A 1 = {1, 2}`.
+The intersection `A 0 ∩ A 1 = ∅` has size 0 ≠ 2. But `A 0 = {0}` is a singleton,
+and any singleton set is monochromatic under any colouring (vacuously, since the only
+pair `(x, y) ∈ {0} × {0}` gives `f 0 = f 0`). Hence `HasChromaticPropertyB` fails. -/
+@[category research solved, AMS 3]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/603.lean]:
```suggestion
@[category textbook, AMS 3]
```

**Review by mo271 — COMMENTED** [review]
Thanks!

A few comments, mainly about docstrings, but also about refactoring/avoiding duplicate definitions a a subltely about the relation to 602

**Comment by henrykmichalewski** [comment]
Applied mo271's docstring-convention review pass in [`63c71d6`](https://github.com/henrykmichalewski/formal-conjectures/commit/63c71d6):
- Lines 1, 67: trimmed the module docstring to the title + single `*References:*` block; dropped the duplicated verbatim statement, the Relationship-to-602 section, the Komjáth-result section, and the Formalization-choices section.
- Line 51: dropped the (incorrect) "and in fact 2 suffice" claim — the source only says ℵ₀ colours suffice for the `≠ 1` case; whether 2 suffice is the open Problem 602.
- Line 91: removed the dead `HasPropertyB` definition.
- Lines 278, 509: switched `erdos_603.variants.two_sets` and `chromatic_without_infinite_claim.disproof` from `@[category research solved]` to `@[category textbook]` per mo271's basic-result reclassification.
- Line 85: added a TODO acknowledging that `IsMonochromatic` and `HasChromaticPropertyB` are also defined in 602.lean. Both PRs are independent fork branches, so factoring the shared defs into `FormalConjecturesForMathlib/Combinatorics/...` is left as a follow-up to avoid cross-branch coupling before either lands.

Build: `lake build FormalConjectures.ErdosProblems.«603»` is green.

File: FormalConjectures/ErdosProblems/603.lean [hunk 10]
```diff
@@ -0,0 +1,491 @@
...
+a colouring `f : α → C` (using at most `#C` colours) such that no `A_i` is monochromatic.
+
+When `C = Fin 2`, this reduces to the classical Property B (2-colouring). -/
+def HasChromaticPropertyB {α : Type*} (C : Type*) (I : Type*) (A : I → Set α) : Prop :=
+  ∃ f : α → C, ∀ i, ¬IsMonochromatic f (A i)
+
+/- ## Main open problem -/
+
+/--
+**Erdős Problem 603 (open).**
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/603.lean]:
```suggestion
**Erdős Problem 603**
```

**Comment by mo271** [comment]
> * Line 85: added a TODO acknowledging that `IsMonochromatic` and `HasChromaticPropertyB` are also defined in 602.lean. Both PRs are independent fork branches, so factoring the shared defs into `FormalConjecturesForMathlib/Combinatorics/...` is left as a follow-up to avoid cross-branch coupling before either lands.

602.lean is already merged, so factoring the shared defs out now would be good

File: FormalConjectures/ErdosProblems/603.lean (hunk 7 above)
Comment (henrykmichalewski) [reply FormalConjectures/ErdosProblems/603.lean]: Done in [`5a17e63`](https://github.com/henrykmichalewski/formal-conjectures/commit/5a17e63), now that 602 is merged on upstream/main.

The shared definitions live in [`FormalConjecturesForMathlib/Combinatorics/Hypergraph/PropertyB.lean`](https://github.com/henrykmichalewski/formal-conjectures/blob/add-problem-603/FormalConjecturesForMathlib/Combinatorics/Hypergraph/PropertyB.lean), under namespace `Combinatorics`, in the generalised `C`-valued form (which has 602's `Fin 2` case as a specialisation):

```lean
def IsMonochromatic {α C : Type*} (f : α → C) (A : Set α) : Prop := …
def HasChromaticPropertyB {α : Type*} (C : Type*) (I : Type*) (A : I → Set α) : Prop := …
```

603.lean now imports the module (and `open`s `Combinatorics`) and drops its local copies. 602.lean is left untouched here since it's upstream and keeps using its own `Erdos602.IsMonochromatic` / `Erdos602.HasPropertyB` (the `C = Fin 2` specialisation); migrating 602 to the shared infra is a clean small follow-up PR.

Build: `lake build FormalConjectures.ErdosProblems.«603» FormalConjectures.ErdosProblems.«602» FormalConjecturesForMathlib` is green.

File: FormalConjectures/ErdosProblems/603.lean (hunk 10 above)
Comment (henrykmichalewski) [reply FormalConjectures/ErdosProblems/603.lean]: Applied in [`5a17e63`](https://github.com/henrykmichalewski/formal-conjectures/commit/5a17e63) — `(open)` is captured by the `@[category research open]` tag.

**Comment by henrykmichalewski** [comment]
Addressed mo271's follow-up in [`5a17e63`](https://github.com/henrykmichalewski/formal-conjectures/commit/5a17e63) (after merging upstream/main into the branch in [`09ecf2b`](https://github.com/henrykmichalewski/formal-conjectures/commit/09ecf2b) so 602.lean is visible here):

**Shared infra factored out**

- New module: [`FormalConjecturesForMathlib/Combinatorics/Hypergraph/PropertyB.lean`](https://github.com/henrykmichalewski/formal-conjectures/blob/add-problem-603/FormalConjecturesForMathlib/Combinatorics/Hypergraph/PropertyB.lean), namespace `Combinatorics`. Contains the generalised `C`-valued forms (which subsume 602's `C = Fin 2` case):
  ```lean
  def IsMonochromatic {α C : Type*} (f : α → C) (A : Set α) : Prop := …
  def HasChromaticPropertyB {α : Type*} (C : Type*) (I : Type*) (A : I → Set α) : Prop := …
  ```
- Added to the `FormalConjecturesForMathlib` umbrella.
- 603.lean now imports the module (with `open Combinatorics` so existing unqualified references keep working) and drops its local copies + TODO.

**602.lean left untouched on this branch.** It's already on upstream/main and continues to use its own `Erdos602.IsMonochromatic` / `Erdos602.HasPropertyB`. Migrating 602 to the shared infra (so both files share a single source of truth) is a clean small follow-up PR; I'll open it once 603 lands so the namespace-level changes are isolated.

**Other inline suggestions in this pass:**
- L53: `**Erdős Problem 603 (open).**` -> `**Erdős Problem 603.**` (`(open)` is captured by `@[category research open]`).

Build: `lake build FormalConjectures.ErdosProblems.«603» FormalConjectures.ErdosProblems.«602» FormalConjecturesForMathlib` is green.

**Comment by mo271** [comment]
> **602.lean left untouched on this branch.** It's already on upstream/main and continues to use its own `Erdos602.IsMonochromatic` / `Erdos602.HasPropertyB`. Migrating 602 to the shared infra (so both files share a single source of truth) is a clean small follow-up PR; I'll open it once 603 lands so the namespace-level changes are isolated.
> 

Let's not leave 602 left untouched, but rather remove the duplicate definition and use it right away: this has the advantage of knowing already now if it works and it makes it impossible to forget the follow-up PR!
